US05147750
In diethylether under reflux, 15.2 parts of chloromethylstyrene and 2.5 parts of metallic magnesium were reacted to obtain a diethylether solution of vinylbenzylmagnesium chloride. To 1000 parts of tetrahydrofuran (hereinafter referred to as THF), were added 117 parts of this solution under an atmosphere of dry nitrogen, and cooled to -78 degrees C. Then, 157 part of dimethylaminoethyl ethacrylate were added thereto and polymerized for 24 hours at -78 degrees C. After stopping polymerization with a small amount of methanol, the polymerizate was precipitated into hexane, filtered and then dried to obtain a polydimethylaminoethylmethacrylate acromer (Mn 2500).

reactant | chloromethylstyrene | ClCC=CC1=CC=CC=C1 | C9H9Cl
reactant | magnesium | [Mg] | Mg
reactant | diethylether | C(C)OCC | C4H10O
product | vinylbenzylmagnesium chloride | C(=C)[Mg]CC1=CC=CC=C1.[Cl-] | InChI=1S/C7H7.C2H3.ClH.Mg/c1-7-5-3-2-4-6-7;1-2;;/h2-6H,1H2;1H,2H2;1H;/p-1
